US09290468B2
2,3,4-Trifluorophenol was protected with hydroxy protection reagent (examples include BnBr, BnCl) at ambient temperature in the presence of base (include Na2CO3, K2CO3, NaHCO3, KHCO3, t-BuOK, t-BuONa) in appropriate inert solvent (include aliphatic and aromatic hydrocarbon (such as pentane, hexane, heptane, cyclohexane, petroleum ether, petrol, gasoline, benzene, toluene, xylene), aliphatic and aromatic halo-hydrocarbon (such as dichloromethane, 1,2-dichloroethane, chloroform, phenixin, chlorobenzene, o-dichlorobenzene), ether (such as diethyl ether, dibutyl ether, glycol dimethyl ether, 2-methoxyethyl ether, tetrahydrofuran, dioxane), ketone (such as acetone, methyl ethyl ketone, methyl isopropyl ketone, methyl isobutyl ketone), ester (such as ethyl acetate, methyl acetate), nitrile (such as acetonitrile, propiononitrile), amide (such as N,N-dimethylformamide, N,N-dimethylacetamide and N-methylpyrrolidin-2-one), DMSO, sulfolane, HMPA, DMPU, prefer acetone and methyl ethyl ketone). The reaction proceeds for several hours (3-12 h, prefer 5-10 h). 1-(Benzyloxy)-2,3,4-trifluorobenzene is obtained after conventional workup.

reactant | 2,3,4-Trifluorophenol | FC1=C(C=CC(=C1F)F)O | C6H3F3O
reactant | BnBr | C1=CC=C(C=C1)CBr | C7H7Br
reactant | BnCl | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | t-BuOK | CC(C)(C)[O-].[K+]
reactant | t-BuONa | C(C)(C)(C)O[Na]
reactant | sulfolane | S1(=O)(=O)CCCC1 | C4H8O2S
solvent | methyl ethyl ketone | C(C)C(=O)C | C4H8O
solvent | acetone | CC(=O)C | C3H6O
solvent | DMPU | CN1CCCN(C1=O)C | C6H12N2O
solvent | HMPA | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
solvent | DMSO | CS(=O)C | C2H6OS
solvent | ether | CCOCC | C4H10O
product | 1-(Benzyloxy)-2,3,4-trifluorobenzene | C(C1=CC=CC=C1)OC1=C(C(=C(C=C1)F)F)F | C13H9F3O
